US09193734B2
Synthesis of 4-(4-chlorobenzyl)-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-39)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 113 mg (0.42 mmol) was coupled with (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-11) 100 mg (0.28 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.42 mmol, 113 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide | 0.28 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)C | C20H29N3O3
product | 4-(4-chlorobenzyl)-1-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | ClC1=CC=C(CNC(NN(C)CC(=O)N[C@H](C(=O)N(CC=2C=CC=C3C=CC=NC23)[C@H](C(OCC)OCC)C)C)=O)C=C1 | C31H41ClN6O5
